US04970213
A suspension of 69.5 g of 2-ethoxy-6,7,8-trifluoro-4-hydroxyquinoline in 430 cm3 of phosphoryl chloride is heated, with stirring, at a temperature close to 100° C. for 30 minutes. The solution obtained is concentrated under reduced pressure (20 kPa) at about 60° C. until the volume is 100 cm3. The residue is taken up in 750 cm3 of ethyl acetate; the solution obtained is poured, with stirring, in the course of 10 minutes into a mixture of 400 cm3 of water and 200 g of ice and the mixture is stirred under these conditions for 30 minutes. After separating off the organic extract, the aqueous phase is extracted again with twice 250 cm3 of ethyl acetate. The combined organic extracts are washed with 3 times 250 cm3 of water, dried over magnesium sulphate and concentrated under reduced pressure (20 kPa) at about 40° C. The oily residue obtained is taken up in 370 cm3 of petroleum ether (40-60). After filtering through diatomaceous silica, the filtrate is concentrated to dryness under reduced pressure (20 kPa) at about 30° C. 70.7 g of 4-chloro-2-ethoxy-6,7,8-trifluoroquinoline are obtained in the form of a beige solid melting at 45° C., which is used for the subsequent steps without further purification.

reactant | 2-ethoxy-6,7,8-trifluoro-4-hydroxyquinoline | 69.5 g | C(C)OC1=NC2=C(C(=C(C=C2C(=C1)O)F)F)F | C11H8F3NO2
reactant | water | 400 cm3 | O | H2O
reactant | phosphoryl chloride | 430 cm3 | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-ethoxy-6,7,8-trifluoroquinoline | 70.7 g | ClC1=CC(=NC2=C(C(=C(C=C12)F)F)F)OCC | C11H7ClF3NO
